US05026856
The procedure of Reference Example 6-(3) was followed using 9.61 g of 2-(p-toluenesulfonyl)-4-bromoisoindoline, 10 g of phenol, 120 ml of 48% hydrobromic acid, and 20 ml of propionic acid. Purification of the crude product by vacuum distillation gave 5.0 g of 4-bromoisoindoline.

reactant | 2-(p-toluenesulfonyl)-4-bromoisoindoline | 9.61 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=CC(=C2C1)Br)C | C15H14BrNO2S
reactant | phenol | 10 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 120 ml | Br | BrH
solvent | propionic acid | 20 ml | C(CC)(=O)O | C3H6O2
product | 4-bromoisoindoline | 5.0 g | BrC1=C2CNCC2=CC=C1 | C8H8BrN
